US08431572B2
Preparation of 5-methyl-3-[3-(5-piperazin-1-ylpyrimidin-2-yl)benzyl]-3H-oxazolo[4,5-b]pyridin-2-one
80 mg (0.16 mmol) of tart-butyl 4-{2-[3-(5-methyl-2-oxooxazolo[4,5-b]pyridin-3-ylmethyl)phenyl]pyrimidin-5-yl}piperazine-1-carboxylate are dissolved in 6 ml of acetonitrile, and 6 ml of 4 M HCl in dioxane are added. The reaction mixture is stirred at room temperature for 1 h and evaporated. The residue is taken up in water and ethyl acetate, and the water phase is adjusted to pH 12 using NaOH and extracted with ethyl acetate and dichloromethane. The organic phases are combined, dried over sodium sulfate and purified by column chromatography.

reactant | butyl 4-{2-[3-(5-methyl-2-oxooxazolo[4,5-b]pyridin-3-ylmethyl)phenyl]pyrimidin-5-yl}piperazine-1-carboxylate | CC1=CC=C2C(=N1)N(C(O2)=O)CC=2C=C(C=CC2)C2=NC=C(C=N2)N2CCN(CC2)C(=O)OCCCC | C27H30N6O4
reactant | HCl | 4 M, 6 ml | Cl | ClH
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-methyl-3-[3-(5-piperazin-1-ylpyrimidin-2-yl)benzyl]-3H-oxazolo[4,5-b]pyridin-2-one | CC1=CC=C2C(=N1)N(C(O2)=O)CC2=CC(=CC=C2)C2=NC=C(C=N2)N2CCNCC2 | C22H22N6O2
